US06756378B2
A stirred mixture of tert-butyl 4-[N′-(2-iodophenyl)ureido]-3-methoxyphenylacetate (3.93 g, 8.16 mmol) and TFA (5 ml) in CH2Cl2 (5 ml) was refluxed for 3 h. After cooling to rt, the mixture was concentrated in vacuo and H2O (50 ml) was added to this residue. The resulting precipitate was collected by filtration and purified by column chromatography on silica gel with CHCl3—MeOH (9:1) as eluent to give 4-[N′-(2-iodophenyl)ureido]-3-methoxyphenylacetic acid (2.89 g, 83%) as a pale yellow crystalline powder. 1H-NMR (DMSO-d6) δ3.62 (s, 2 H), 3.88 (s, 3 H), 6.78 (d, J=8.3 Hz, 1 H), 6.83-6.87 (m, 1 H), 6.94 (s, 1 H), 7.32-7.36 (m, 1 H), 7.69 (dd, J=8.3, 1.5 Hz, 1 H), 7.84 (dd, J=8.3, 1.5 Hz, 1 H), 7.97-8.00 (m, 1 H), 8.55 (m, 1H), 8.82 (m, 1 H), 12.26 (br s, 1 H).

reactant | tert-butyl 4-[N′-(2-iodophenyl)ureido]-3-methoxyphenylacetate | 8.16 mmol, 3.93 g | IC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)OC(C)(C)C)OC)=O | C20H23IN2O4
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-[N′-(2-iodophenyl)ureido]-3-methoxyphenylacetic acid | 2.89 g, 83% | IC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)O)OC)=O | C16H15IN2O4
